US07253286B2
6-(4-Benzyloxyphenyl)-4-(3-fluoro-4-nitrophenoxy)-7-(trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidine
After adding 248 mg of 3-fluoro-4-nitrophenol, 0.208 ml of 2,6-lutidine and 1 ml of N-methylpyrrolidine to 490 mg of 6-(4-benzyloxyphenyl)-4-chloro-7-(2-trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidine, the mixture was stirred at 130° C. for 24 hours. After returning it to room temperature, water was added, liquid separation and extraction were performed with an ethyl acetate-tetrahydrofuran mixed solvent, and the organic layer was washed with saturated brine, dried over sodium sulfate, concentrated and subjected to NH silica gel column chromatography (ethyl acetate) to obtain 472 mg of the title compound.

reactant | 3-fluoro-4-nitrophenol | 248 mg | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | 2,6-lutidine | 0.208 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | N-methylpyrrolidine | 1 ml | CN1CCCC1 | C5H11N
reactant | 6-(4-benzyloxyphenyl)-4-chloro-7-(2-trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidine | 490 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC2=C(N=CN=C2Cl)N1COCC[Si](C)(C)C | C25H28ClN3O2Si
solvent | water | O | H2O
product | 6-(4-Benzyloxyphenyl)-4-(3-fluoro-4-nitrophenoxy)-7-(trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidine | 472 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC2=C(N=CN=C2OC2=CC(=C(C=C2)[N+](=O)[O-])F)N1COCC[Si](C)(C)C | C31H31FN4O5Si
